US08633220B2
Step 6. 2-(3-(6-Hexyl-1-naphthamido)phenoxy)acetic acid
Aqueous 1 N lithium hydroxide (0.5 mL, 0.5 mmol) was added to a solution of isopropyl 2-(3-(6-hexyl-1-naphthamido)phenoxy)acetate (44 mg, 0.98 mmol) in THF (0.5 mL) in a scintillation vial. The vial was sealed and heated at 60° C. After 40 h, the reaction mixture was allowed to cool and the volatiles were evaporated under a stream of nitrogen. The residue was diluted with water (2 mL), acidified with 1 N aqueous HCl (2 mL) and extracted with EtOAc (3×20 mL). The combined organic phase was washed with brine (10 mL), then dried (Na2SO4), filtered and concentrated in vacuo to afford 36 mg (90%) of the title compound.

reactant | lithium hydroxide | 0.5 mmol, 1 N, 0.5 mL | [OH-].[Li+]
reactant | isopropyl 2-(3-(6-hexyl-1-naphthamido)phenoxy)acetate | 0.98 mmol, 44 mg | C(CCCCC)C=1C=C2C=CC=C(C2=CC1)C(=O)NC=1C=C(OCC(=O)OC(C)C)C=CC1 | C28H33NO4
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 2-(3-(6-Hexyl-1-naphthamido)phenoxy)acetic acid | 36 mg, 90% | C(CCCCC)C=1C=C2C=CC=C(C2=CC1)C(=O)NC=1C=C(OCC(=O)O)C=CC1 | C25H27NO4
